US07635715B2
Step F: Preparation of N-((6′-Chloro-4′-hydroxy-2′,4-dioxo-spiro[cyclohexane-1,1′-naphthalen]-3′-yl)carbonyl)glycine
A mixture of 1,1-dimethylethyl N-((6″-chloro-4″-hydroxy-5,5-dimethyl-2″-oxo-dispiro[1,3-dioxane-2,1′-cyclohexane-4′,1″-naphthalen]-3″-yl)carbonyl)glycinate (18 mg, 35 μmol) in 1 mL TFA was stirred at room temperature for 30 minutes, M+1=378. The mixture was concentrated in vacuo, and dried under high vacuum to give 11 mg of the product as an off-white solid. MS (m/z)=378 (M+H)+. Calculated for C18H16ClNO6 377.07.

reactant | 1,1-dimethylethyl N-((6″-chloro-4″-hydroxy-5,5-dimethyl-2″-oxo-dispiro[1,3-dioxane-2,1′-cyclohexane-4′,1″-naphthalen]-3″-yl)carbonyl)glycinate | 35 μmol, 18 mg | ClC=1C=C2C(=C(C(C3(C2=CC1)CCC1(CC3)OCC(CO1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C27H34ClNO7
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((6′-Chloro-4′-hydroxy-2′,4-dioxo-spiro[cyclohexane-1,1′-naphthalen]-3′-yl)carbonyl)glycine | 11 mg | ClC=1C=C2C(=C(C(C3(C2=CC1)CCC(CC3)=O)=O)C(=O)NCC(=O)O)O | C18H16ClNO6
